US07291631B2
3-Isobutyl-2-methyl-pyridine (Ishiguro et al. Yakugaku Zasshi 1958, 78, 220) (970 mg, 6.51 mmol) was suspended in a mixture of hydrogen peroxide (5 mL) and HOAc (45 mL) and the resulting mixture was stirred at 100° C. for 2.5 hours. The solvent was removed under reduced pressure and the resulting oily mixture was quenched with saturated NaHCO3 (60 mL) and extracted with CH2Cl2 (10×100 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo to yield 3-isobutyl-2-methyl-pyridine-1-oxide as a colorless oil (821 mg, 76%). 1H NMR (CDCl3) δ 0.93 (d, 6H, J=6.0 Hz), 1.84 (m, 1H), 2.51 (d, 2H, J=6.0 Hz), 2.52 (s, 3H), 7.03 (m, 2H), 8.18 (d, 1H, J=6.0 Hz).

reactant | 3-Isobutyl-2-methyl-pyridine | 6.51 mmol, 970 mg | C(C(C)C)C=1C(=NC=CC1)C | C10H15N
reactant | hydrogen peroxide | 5 mL | OO | H2O2
solvent | HOAc | 45 mL | CC(=O)O | C2H4O2
product | 3-isobutyl-2-methyl-pyridine-1-oxide | 821 mg, 76% | C(C(C)C)C=1C(=[N+](C=CC1)[O-])C | C10H15NO
